US07037938B2
To a solution of N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-3-(4-hydroxyphenyl)propanamide (11.61 g) in tetrahydrofuran (70 ml) was added borane-methyl sulfide complex (10M, 11.9 ml) at 0° C., and the mixture was heated to 80° C. for 1 hour. After being allowed to cool to room temperature, the mixture was added 2N hydrochloric acid (20 ml) at 0° C. The mixture was heated to 80° C. for 1 hour. After being allowed to cool to room temperature, the mixture was added 1N sodium hydroxide (40 ml) and di-tert-butyl dicarbonate (8.72 g) and stirred for 1 hour at room temperature. The mixture was partitioned between hexane/ethyl acetate and water. The organic layer was separated, washed successively with water, sodium sulfite solution, water and brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate) to give tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][3-(4-hydroxyphenyl)propyl]carbamate (11.36 g) as a white powder.

reactant | N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-3-(4-hydroxyphenyl)propanamide | 11.61 g | ClC=1C=C(C=CC1)[C@H](CNC(CCC1=CC=C(C=C1)O)=O)O | C17H18ClNO3
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
reactant | sodium hydroxide | 1N, 40 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 8.72 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][3-(4-hydroxyphenyl)propyl]carbamate | 11.36 g | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCCC1=CC=C(C=C1)O)O | C22H28ClNO4
